datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])[H:4].[C:10]([C:11]([C:12]([C:13]([C:14]([C:15]([C:16]([C:17]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])([H:4])[C:10]([C:11]([C:12]([C:13]([C:14]([C:15]([C:16]([C:17]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19],0.0
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[O:9]([O:10][H:12])[H:11]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:11])([H:4])[H:5].[O:9][O:10][H:12],-2.493664
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15](#[C:16][C:17]([C:18]([H:21])([H:22])[H:23])[C:19]([H:24])([H:25])[H:26])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[C:17]([C:16]#[C:15][H:20])([C:18]([H:21])([H:22])[H:23])[C:19]([H:24])([H:25])[H:26])[H:7],30.8779
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:25])([H:26])[H:27])=[C:15]([c:16]1[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]1[H:33])[H:28])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[C:15]([C:13]([C:12]([H:22])([H:23])[H:24])[C:14]([H:25])([H:26])[H:27])([c:16]1[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]1[H:33])[H:28])[H:7])([H:5])[H:6],78.1571
[C:0](#[C:1][H:3])[H:2].[O:4][O:5]>>[C:0]#[C:1][H:3].[H:2][O:4][O:5],311.792
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18][H:19]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:17][O:18][H:19],50.58456
[C:0]([C:1]1=[C:2]([H:9])[C:3]([H:10])[C:4]([H:11])=[C:5]1[H:12])([H:6])([H:7])[H:8].[H:13]>>[C:0]([C:1]1=[C:2]([H:9])[C:3]([H:10])([H:13])[C:4]([H:11])=[C:5]1[H:12])([H:6])([H:7])[H:8],-0.016736
[C:0]([C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])([H:8])[H:9])([H:6])[H:7]>>[C:0]([C:1]([C:2]1[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])([H:8])[H:9])([H:6])([H:7])[H:10],144.348
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4](=[C:5]([C:6]([C:7](=[C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:22])([H:20])[H:21])[H:19])[H:18])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])=[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:14])([H:12])[H:13],145.771
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[H:16])([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:11]([C:10]([H:13])([H:14])[H:15])([C:12]([H:17])([H:18])[H:19])[H:16],2.092
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])[H:10])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]1([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])[H:8],139.453
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([C:19]([H:25])([H:26])[H:27])([C:20]([C:21]([H:30])([H:31])[H:32])([H:28])[H:29])[H:24])([H:22])[H:23]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][C:17]([C:18]([C:19]([H:25])([H:26])[H:27])([C:20]([C:21]([H:30])([H:31])[H:32])([H:28])[H:29])[H:24])([H:22])[H:23],51.4632
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12](=[C:13]([C:14]([H:19])([H:20])[H:21])[C:15]([O:16])([H:22])[H:23])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][O:16][C:15]([C:13](=[C:12]([H:17])[H:18])[C:14]([H:19])([H:20])[H:21])([H:22])[H:23],16.736
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[S:17][H:24])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:15]([C:14]([H:18])([H:19])[H:20])([C:16]([H:21])([H:22])[H:23])[S:17][H:24],25.104
[H:5].[S:0]=[C:1]([S:2][H:4])[H:3]>>[H:4][H:5].[S:0]=[C:1]([S:2])[H:3],-10.46
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8]>>[C:0]([C:1](=[C:2]([H:10])[H:11])[H:9])([H:7])([H:8])[H:14].[C:3](=[C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:15])([H:12])[H:13],224.898368
[C:0]([N:1][H:5])([H:2])([H:3])[H:4]>>[C:0]([N:1][H:5])([H:3])[H:4].[H:2],152.054928
